US06338741B1
a) Preparation of 5-amino-1-methyl-3-tert-butylpyrazole
To a solution of 12.5 g (0.1 mol) of 4,4-dimethyl-3-oxopentanenitrile in 50 cm3 of n-propanol were added, at room temperature, 4.6 g (0.1 mol) of methylhydrazine. The reaction medium was maintained at reflux for 1 hour and then cooled to room temperature. The white solid obtained was filtered off on a sinter funnel and then washed with isopropyl ether. After drying under vacuum at 40° C., 10 g of the expected product were obtained in the form of a beige solid, the melting point of which was 157° C.

reactant | 4,4-dimethyl-3-oxopentanenitrile | 0.1 mol, 12.5 g | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | methylhydrazine | 0.1 mol, 4.6 g | CNN | CH6N2
solvent | n-propanol | 50 cm3 | C(CC)O | C3H8O
product | 5-amino-1-methyl-3-tert-butylpyrazole | 10 g | NC1=CC(=NN1C)C(C)(C)C | C8H15N3
